US05019575
5-[2-(4-nitrophenyl)ethenyl]-5,6-dihydro-1,3,4-thiadiazin2(3H)one
A solution containing 11.2 g of 1-chloro-4-(4-nitrophenyl)-2-oxo-3-butene (J. Org. Chem. 28, 2446, 1963) and 6.8 g of hydrazinecarbothioic acid O-methylester in 200 ml of acetonitrile was refluxed for 3 h. The crystals were filtered and washed with acetonitrile and ether. Yield 7.7 g (59%), mp. 231°-240° C.

reactant | 1-chloro-4-(4-nitrophenyl)-2-oxo-3-butene | 11.2 g | ClCC(C=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H8ClNO3
reactant | hydrazinecarbothioic acid O-methylester | 6.8 g | COC(=S)NN | C2H6N2OS
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-[2-(4-nitrophenyl)ethenyl]-5,6-dihydro-1,3,4-thiadiazin2(3H)one | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1NNC(SC1)=O | C11H11N3O3S
